US08067419B2
In an inert atmosphere, indole-5-carboxaldehyde (108 mg, 0.75 mmol) and 2-amino-1-(4-benzyl-piperazin-1-yl)-(S)-3-phenyl-propan-1-one (162 mg, 0.50 mmol) were dissolved in dry MeOH (4.0 mL) and refluxed for 4 h. The reaction mixture was cooled to rt followed by slow addition of sodium borohydride (28 mg, 0.75 mmol). Stirring was continued for 1 h. Water (1 mL) was added to the reaction mixture followed by evaporation of the solvent under reduced pressure. The residue was dissolved in EtOAc (10 mL) and washed with sat. sodium hydrogencarbonate solution (10 mL) and brine (10 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to give 200 mg (80%) of 1-(4-benzyl-piperazin-1-yl)-2-[(1H-indol-5-ylmethyl)-amino]-(S)-3-phenyl-propan-1-one. LC-MS: tR=0.65 min; [M+H]+=453.39.

reactant | indole-5-carboxaldehyde | 0.75 mmol, 108 mg | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | 2-amino-1-(4-benzyl-piperazin-1-yl)-(S)-3-phenyl-propan-1-one | 0.50 mmol, 162 mg | N[C@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H25N3O
reactant | sodium borohydride | 0.75 mmol, 28 mg | [BH4-].[Na+]
reactant | Water | 1 mL | O | H2O
solvent | MeOH | 4.0 mL | CO | CH4O
product | 1-(4-benzyl-piperazin-1-yl)-2-[(1H-indol-5-ylmethyl)-amino]-(S)-3-phenyl-propan-1-one | 200 mg, 80% | C(C1=CC=CC=C1)N1CCN(CC1)C([C@H](CC1=CC=CC=C1)NCC=1C=C2C=CNC2=CC1)=O | C29H32N4O
